US04283569
4-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]-2-butanol
To a -15° C. solution of 0.5 g. (1.31 mmols.) of 4-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-2-butanone (the product of Example 1) in 5 ml. of methanol is added 50 mg. (1.31 mmols.) of sodium borohydride. The reaction mixture is stirred for 30 minutes and is then added to 100 ml. of saturated sodium chloride-150 ml. ether. The ether extract is washed once with 100 ml. of saturated sodium chloride, dried over magnesium sulfate and evaporated to an oil. The oil is purified via column chromatography on 100 g. of silica gel eluted with 1:1 ether:cyclohexane to yield 419 mg. (84%) of the title compound as an oil.

reactant | 4-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-2-butanone | 1.31 mmols | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)CCC(C)=O | C26H36O2
reactant | methanol | CO | CH4O
reactant | sodium borohydride | 1.31 mmols | [BH4-].[Na+]
reactant | sodium chloride | 150 ml | [Cl-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 4-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]-2-butanol | 84% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)CCC(C)O | C26H38O2
